US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-20-(4-triethylsilyloxy-4-methyl-2-pentynyloxy)-20-methylpregna-5,7,16-triene
1α,3β-Bis(tert-Butyldimethylsilyloxy)-20-hydroxy-20-methylpregna-5,7,16-triene (100 mg, 0.175 mmol), 1-bromo-4-triethylsilyloxy-4-methyl-2-pentyne (203 mg, 0.697 mmol), sodium hydride (60% in oil, 42 mg, 1.05 mmol), 15-crown-5 (38 mg, 0.173 mmol) and tetrahydrofuran (3 ml) were reacted using a procedure similar to that of Example 5 (1) (reflux under heating for 17 hours), worked-up and purified by column chromatography (hexane:toluene=2:1) to give the titled compound (85 mg, 62%) as a colorless oil.

reactant | 1α,3β-Bis(tert-Butyldimethylsilyloxy)-20-hydroxy-20-methylpregna-5,7,16-triene | 0.175 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C34H60O3Si2
reactant | 1-bromo-4-triethylsilyloxy-4-methyl-2-pentyne | 0.697 mmol, 203 mg | BrCC#CC(C)(C)O[Si](CC)(CC)CC | C12H23BrOSi
reactant | sodium hydride | 1.05 mmol, 42 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.173 mmol, 38 mg | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-20-(4-triethylsilyloxy-4-methyl-2-pentynyloxy)-20-methylpregna-5,7,16-triene | 85 mg, 62% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)OCC#CC(C)(C)O[Si](CC)(CC)CC)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C46H82O4Si3
